US08431586B2
Step 3: 4-[((1S,2R)-2-{[amino(methoxyimino)methyl]amino}cyclohexyl)amino]-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide dihydrochloride
1.71 g of 4-[((1S,2R)-2-{[amino(methoxyimino) methyl]amino}cyclohexyl)amino]-N-(2-methoxyethyl)-6-methyl quinazolin-2-carboxamide was suspended in 20 ml of ethyl acetate, and 5 ml of a 4 N hydrogen chloride-ethyl acetate solution was added thereto, and the mixture was stirred for 15 minutes. To the reaction solution, 40 ml of diethyl ether was added, and the resulting deposited substance was collected by filtration, washed with diethyl ether and dried under reduced pressure, whereby 2.01 g of a desired compound was obtained as a white powder.

reactant | 4-[((1S,2R)-2-{[amino(methoxyimino) methyl]amino}cyclohexyl)amino]-N-(2-methoxyethyl)-6-methyl quinazolin-2-carboxamide | 1.71 g | NC(=NOC)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)C)C(=O)NCCOC | C21H31N7O3
reactant | hydrogen chloride-ethyl acetate | 4 N | C(C)(=O)OCC.Cl
reactant | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-[((1S,2R)-2-{[amino(methoxyimino)methyl]amino}cyclohexyl)amino]-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide dihydrochloride | 2.01 g | Cl.Cl.NC(=NOC)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)C)C(=O)NCCOC | InChI=1S/C21H31N7O3.2ClH/c1-13-8-9-15-14(12-13)18(27-19(24-15)20(29)23-10-11-30-2)25-16-6-4-5-7-17(16)26-21(22)28-31-3;;/h8-9,12,16-17H,4-7,10-11H2,1-3H3,(H,23,29)(H3,22,26,28)(H,24,25,27);2*1H/t16-,17+;;/m0../s1
